US06977262B2
4,7-Dihydro-5-nitro-4-(2-nitrophenyl)-6-propyl-2H-pyrazolo[3,4-b]pyridine
The title compound was prepared from n-butylaldehyde, 2-nitrobenzaldehyde and 3-aminopyrazole in the same manner as in Example 93.

reactant | 2-nitrobenzaldehyde | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
product | 4,7-Dihydro-5-nitro-4-(2-nitrophenyl)-6-propyl-2H-pyrazolo[3,4-b]pyridine | [N+](=O)([O-])C=1C(C=2C(NC1CCC)=NNC2)C2=C(C=CC=C2)[N+](=O)[O-] | C15H15N5O4
